US08304419B2
Step D (Alternate Procedure): 3-chloro-5-({2-chloro-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]phenyl}oxy)benzonitrile
3-Chloro-5-({2-chloro-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]phenyl}oxy)benzonitrile was prepared in a in a similar manner as described herein from 2-({[(4-chloro-3-hydroxyphenyl)methyl]amino}carbonyl)benzoic acid (3.0 g, 10.4 mmol), 3-chloro-5-fluorobenzonitrile (2.5 g, 15.6 mmol), K2CO3 (4.3 g, 31.0 mmol) and NMP (25.0 mL). Purification was accomplished by column chromatography (hexane/EtOAc) to afford the title compound (1.0 g, 24%) as a solid.

reactant | 2-({[(4-chloro-3-hydroxyphenyl)methyl]amino}carbonyl)benzoic acid | 10.4 mmol, 3.0 g | ClC1=C(C=C(C=C1)CNC(=O)C1=C(C(=O)O)C=CC=C1)O | C15H12ClNO4
reactant | 3-chloro-5-fluorobenzonitrile | 15.6 mmol, 2.5 g | ClC=1C=C(C#N)C=C(C1)F | C7H3ClFN
reactant | K2CO3 | 31.0 mmol, 4.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 25.0 mL | CN1CCCC1=O | C5H9NO
product | 3-chloro-5-({2-chloro-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]phenyl}oxy)benzonitrile | 1.0 g, 24% | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC(=C1)CN1C(C2=CC=CC=C2C1=O)=O)Cl | C22H12Cl2N2O3
